US09289419B2
Synthesis of (S)-1-(piperidin-4-yl)pyrrolidin-3-ol hydrochloride
(S)-tert-butyl 4-(3-hydroxypyrrolidin-1-yl)piperidine-1-carboxylate (200 mg, 0.73 mmol) was added to a solution of 4M HCl in Dioxane (4 mL) at 0-5° C. and stirring was continued at 20-35° C. for 3 h. The reaction mixture was concentrated under reduced pressure to afford the crude product. The crude product was purified by washing with diethyl ether to afford 80 mg of the title compound.

reactant | (S)-tert-butyl 4-(3-hydroxypyrrolidin-1-yl)piperidine-1-carboxylate | 0.73 mmol, 200 mg | O[C@@H]1CN(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O3
reactant | HCl | 4M | Cl | ClH
solvent | Dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (S)-1-(piperidin-4-yl)pyrrolidin-3-ol hydrochloride | 80 mg | Cl.N1CCC(CC1)N1C[C@H](CC1)O | InChI=1S/C9H18N2O.ClH/c12-9-3-6-11(7-9)8-1-4-10-5-2-8;/h8-10,12H,1-7H2;1H/t9-;/m0./s1
